US08937150B2
bis(3-bromophenyl)methanol
n-Bui (26.5 mL, 42.4 mmol, 1.6M in hexane) was added to a solution of 1,3-dibromobenzene (10 g, 42.4 mmol) in THF (50 mL) at −78° C. After stirred for 2 h at −78° C., the 3-bromobenzaldehyde (7.84 g, 42.4 mmol) was added to the reaction mixture. The reaction mixture was allowed to warm up to r.t. and stirred at 30° C. for 12 h. The reaction was quenched with aq NH4Cl (100 mL). The mixture was extracted with dichloromethane (80 mL×5). The combined organic layers were dried and concentrated. The residue was purified by column chromatography (on silica gel, eluent with Petroleum ether ˜Petroleum ether: EtOAc=20:1) to afford 8.4 g of the title compound (24.5 mmol, 58%). LC/MS: [M−18+1]=325. 1HNMR (DMSO-d6), 400 MHz: δ 5.74 (d, 1H, J=4.0 Hz), 6.19 (d, 1H, J=4.4 Hz), 7.26-7.31 (m, 2H), 7.37-7.43 (m, 4H), 7.59 (s, 2 H).

reactant | 1,3-dibromobenzene | 42.4 mmol, 10 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 3-bromobenzaldehyde | 42.4 mmol, 7.84 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | bis(3-bromophenyl)methanol | 24.5 mmol, 8.4 g, 58% | BrC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)Br | C13H10Br2O
